US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.3 g) and 4-amino-1-benzyl-3,5-diethyl-3-methylpiperidine (2.1 g, 8.07 mmol) in methanol (50 ml) was stirred in hydrogen atmosphere (4 atm.) at 45° C. for 4 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-amino-3,5-diethyl-3-methyl-piperidine as an oil.

reactant | 4-amino-1-benzyl-3,5-diethyl-3-methylpiperidine | 8.07 mmol, 2.1 g | NC1C(CN(CC1CC)CC1=CC=CC=C1)(C)CC | C17H28N2
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.3 g | [OH-].[OH-].[Pd+2]
product | 4-amino-3,5-diethyl-3-methyl-piperidine | NC1C(CNCC1CC)(C)CC | C10H22N2
